US04983755
3 g (0.013 mol) of 4-chlorophenyl tert.-butyl ketone N-methylhydrazone was dissolved in 30 ml methylene chloride and treated with 1.5 g triethylamine (0.014 mol). Then, at 0° C., 1.33 g (0.014 mol) methyl chloroformate was added dropwise and the mixture stirred for one hour. The reaction mixture was then treated with water and methylene chloride and the organic phase dried and concentrated. After thin layer chromatography, there was obtained methyl 3-[1-(4-chlorophenyl)-2,2-dimethylpropylidene]-2-methylcarbazate, m.p. 58°-60° C.

reactant | 4-chlorophenyl tert.-butyl ketone N-methylhydrazone | 0.013 mol, 3 g | CNN=C(C1=CC=C(C=C1)Cl)C(C)(C)C | C12H17ClN2
reactant | triethylamine | 0.014 mol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.014 mol, 1.33 g | ClC(=O)OC | C2H3ClO2
reactant | water | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-[1-(4-chlorophenyl)-2,2-dimethylpropylidene]-2-methylcarbazate | ClC1=CC=C(C=C1)C(C(C)(C)C)=NN(C(=O)OC)C | C14H19ClN2O2
